US04082717
A solution of 6-methoxy-2-methyl-2H-pyran-3(6H)-one (0.01 mole) in 20 ml of acetic acid as treated with gaseous chlorine (0.01 mole) at room temperature. The reaction mixture was then heated to reflux for about one hour, cooled to room temperature, diluted with 20 ml of water, the pH adjusted with 50% NaOH solution to 7.0 and the reaction mixture extracted with chloroform. The chloroform extract was concentrated to yield maltol which was recrystallized from methanol to give pure product (56%), mp 159.5°-160.5° C.

reactant | 6-methoxy-2-methyl-2H-pyran-3(6H)-one | 0.01 mole | COC1C=CC(C(O1)C)=O | C7H10O3
reactant | chlorine | 0.01 mole | ClCl | Cl2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | maltol | CC1=C(C(=O)C=CO1)O | C6H6O3
